US05362878
N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-hexylthiode canoic amide
A solution of 4.19 g (13.7 mmol) 2-hexylthiodecanoyl chloride, prepared according to Example 4A, in 15 ml methylene chloride was added dropwise with stirring under nitrogen to a solution of 2.75 g (13.7 mmol) 3-amino-2,4-bis(methylthio)-6-methylpyridine in 30 ml pyridine cooled to 5° C. The reaction mixture was stirred at room temperature under nitrogen overnight. Methylene chloride (250 ml) was then added to the reaction mixture and the resulting solution was washed with 3×50 ml 3N aqueous hydrochloric acid solution, 2×50 ml water, 1×50 ml saturated aqueous sodium bicarbonate solution and 1×50 ml brine. The methylene chloride solution was dried over anhydrous sodium sulfate, filtered and concentrated to dryness in vacuo. The solid residue (6.5 g) was recrystallized from petroleum ether to yield 4.7 g of the title compound, m.p. 75°-76.5° C. (72.8% yield).

reactant | 2-hexylthiodecanoyl chloride | 13.7 mmol, 4.19 g | C(CCCCC)SC(C(=O)Cl)CCCCCCCC | C16H31ClOS
reactant | 3-amino-2,4-bis(methylthio)-6-methylpyridine | 13.7 mmol, 2.75 g | NC=1C(=NC(=CC1SC)C)SC | C8H12N2S2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | Methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-hexylthiode canoic amide | 4.7 g, 72.8% yield | CSC1=NC(=CC(=C1NC(C(CCCCCCCC)SCCCCCC)=O)SC)C | C24H42N2OS3
